US06790860B2
397 mg (0.67 mmol) (2S,4R)-2-[[tert-butoxycarbonylmethyl-(2,5-difluoro-benzyl)-amino]-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester were treated with 4.2 ml 1N HCl in EtOAc at RT. The reaction mixture was concentrated and tituration with ether yielded 250 mg (76%) (2S,4R)-[(2,5-difluoro-benzyl)-[4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl]-amino]-acetic acid tert-butyl ester as light brown solid, which was transformed to (2S,4R)-2-[[tert-butoxycarbonylmethyl-(2,5-difluoro-benzyl)-amino]-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid butyl ester according to example 4b by treatment with butyl chloroformate.

reactant | (2S,4R)-2-[[tert-butoxycarbonylmethyl-(2,5-difluoro-benzyl)-amino]-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.67 mmol, 397 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CN(CC1=C(C=CC(=C1)F)F)CC(=O)OC(C)(C)C | C31H42F2N2O5S
reactant | HCl | 1N, 4.2 ml | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4R)-[(2,5-difluoro-benzyl)-[4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl]-amino]-acetic acid tert-butyl ester | 250 mg, 76% | C(C)(C)(C)OC(CN(C[C@H]1NC[C@@H](C1)SCC1=CC=C(C=C1)OC)CC1=C(C=CC(=C1)F)F)=O | C26H34F2N2O3S
